* C:\Users\jstee\Documents\GitHub\Assorted_small_projects\Metal_detector\LTspice\Col-pit_metal_dec.asc
C1 Vout N003 10n
C2 N003 N001 10n
C3 N002 N001 10n
L1 Vout N001 10m
R1 VCC Vout 2.2k
R2 N003 0 470
V1 VCC 0 5
R3 N002 0 10k
R4 VCC N002 39k
R5 Vout 0 40k
R6 N001 0 100k
Q1 Vout N002 N003 0 2N5769
.model NPN NPN
.model PNP PNP
.lib C:\Users\jstee\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1m 0 1u startup
.backanno
.end
